US05145868
e) (2RS,3SR)-2,3-Epoxy-3-(5-chlorothiophen-2-yl)-propanal
A solution of 0.6 ml of dimethyl sulfoxide in 2 ml of dichloromethane is added with stirring, at -60° C., to a solution of 0.37 ml of oxalyl chloride in 10 ml of dichloromethane in a nitrogen atmosphere. After the mixture has been stirred for 5 minutes at -60° C. there is added thereto, over a period of 20 minutes, a solution of 0.7 g of (2RS,3SR)-2,3-epoxy-3-(5-chlorothiophen-2-yl)-propanol according to d) in 10 ml of dichloromethane. After a further 20 minutes at -60° C. 1.3 ml of triethylamine is added, the mixture is allowed to come to room temperature, washed with water, and dried over sodium sulfate. Filtration and concentration by evaporation yields the crude title compound in the form of a dark viscous oil.

reactant | dimethyl sulfoxide | 0.6 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 0.37 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (2RS,3SR)-2,3-epoxy-3-(5-chlorothiophen-2-yl)-propanol | 0.7 g | O1C(CO)C1C=1SC(=CC1)Cl | C7H7ClO2S
reactant | triethylamine | 1.3 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (2RS,3SR)-2,3-Epoxy-3-(5-chlorothiophen-2-yl)-propanal | O1C(C=O)C1C=1SC(=CC1)Cl | C7H5ClO2S
